US09169259B2
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.05 g, 0.15 mmol), 4-hydroxyphenylboronic acid (0.025 g, 4 mmol), Pd(dba)2 (0.02 g, 0.035 mmol), X-Phos (0.02 g, 0.042 mmol) and Na2CO3 (0.032 g, 0.3 mmol) in dioxane/H2O (20 mL/2 mL) was stirred at 95° C. for 18 h under N2. The solvent was removed in vacuo and the residue purified by chromatography (silica gel, petroleum ether/ethyl acetate 3:1) to give 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol (0.03 g, 51%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 9.85 (s, 1H), 9.54 (s, 1H), 8.70 (s, 1H), 8.14 (s, 1H), 7.78-7.75 (m, 2H), 7.62 (s, 1H), 7.43 (t, 1H, J=8.0 Hz), 6.91-6.88 (m, 2H), 6.70 (d, 1H, J=7.8 Hz), 6.07 (d, 1H, J=8.1 Hz), 4.22 (brs, 1H), 3.57 (brs, 2H), 2.08-1.98 (m, 3H), 1.69 (brs, 1H), 1.15 (d, 3H, J=6.3 Hz). LC/MS: 387 [M+H]+, 385 [M−H]−, tR=1.59 min. HPLC: 96.77% at 214 nm, 97.82% at 254 nm, tR=6.12 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.15 mmol, 0.05 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 4-hydroxyphenylboronic acid | 4 mmol, 0.025 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | X-Phos | 0.042 mmol, 0.02 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.3 mmol, 0.032 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane H2O | 20 mL | O1CCOCC1.O
catalyst | Pd(dba)2 | 0.035 mmol, 0.02 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | 4-(8-(6-(2-methylpyrrolidin-1-yl)pyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)phenol | 0.03 g, 51% | CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C(C=C1)O)C=CN2 | C22H22N6O
